US04742069
A suspension of 13 g of 2-ethyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide in 130 ml of methanol was reacted with ammonia in accordance with the procedure described in Example 1. The dark yellow solution obtained was concentrated to dryness under reduced pressure and the crystalline residue was recrystallized from ethanol. There were obtained 12.2 g of N-ethyl-4-amino-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 112°-114°.

reactant | 2-ethyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide | 13 g | C(C)N1S(CC(C=C1C)=O)(=O)=O | C7H11NO3S
reactant | ammonia | N | H3N
solvent | methanol | 130 ml | CO | CH4O
product | N-ethyl-4-amino-2-oxo-3-pentenesulfonamide | 12.2 g | C(C)NS(=O)(=O)CC(C=C(C)N)=O | C7H14N2O3S
